US05804532
A solution of n-butyllithium in hexane (2.5M, 115 ml) was added dropwise with cooling to a stirred solution of 2-bromo-5-(ethylsulphenyl)benzotrifluoride (80.0 g) in anhydrous ether whilst maintaining the temperature below -70° C. The mixture was stirred at -78° C. for 1.5 hours and poured onto solid carbon dioxide pellets. The mixture was stirred for 20 minutes then treated with hydrochloric acid (2M). The layers were separated and the organic layer was washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness. The residue was triturated with cyclohexane and filtered to give 4-(ethylsulphenyl)-2-trifluoromethylbenzoic acid as an off-white solid, m.p. 133.5° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromo-5-(ethylsulphenyl)benzotrifluoride | 80.0 g | BrC1=C(C=C(C=C1)SCC)C(F)(F)F | C9H8BrF3S
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | hexane | 2.5M, 115 ml | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 4-(ethylsulphenyl)-2-trifluoromethylbenzoic acid | C(C)SC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C10H9F3O2S
